US04752646
To a solution of 5 g (16 mmol) of rac-3,4-dihydro-6-(phenylmethoxy)-2,5,7,8-tetramethyl-2H-1-benzopyran-2-ol in 50 mL of anhydrous ether was added 5 g of 4A molecular sieves. The mixture was stirred mechanically with ice-bath cooling while HCl gas was bubbled in for 30 min. Stirring was continued at 0° C. for 30 min and then the solvent was removed in vacuo. The residue was treated with 500 mL of hexane and the solution was decanted. The hexane solution was then treated with 10 g of anhydrous CaCl2 and the mixture stirred for 2 hr. The solids were filtered and the filtrate was concentrated in vacuo to a volume of ca. 20 mL. Crystallization was induced by cooling to -10° C. and stirring, then the remaining solvent was removed in vacuo giving 4.9 g (92.8% yield) of rac-2-chloro-3,4-dihydro-2,5,7,8-tetramethyl-6-(phenylmethoxy)-2H-1-benzopyran as a colorless solid. The chlorochroman decomposed upon attempted column or thin layer chromatography. It was stored at 0° C.

reactant | rac-3,4-dihydro-6-(phenylmethoxy)-2,5,7,8-tetramethyl-2H-1-benzopyran-2-ol | 16 mmol, 5 g | C1(=CC=CC=C1)COC=1C(=C(C2=C(CCC(O2)(O)C)C1C)C)C | C20H24O3
reactant | HCl | Cl | ClH
solvent | ether | 50 mL | CCOCC | C4H10O
product | rac-2-chloro-3,4-dihydro-2,5,7,8-tetramethyl-6-(phenylmethoxy)-2H-1-benzopyran | 4.9 g, 92.8% yield | ClC1(OC2=C(CC1)C(=C(C(=C2C)C)OCC2=CC=CC=C2)C)C | C20H23ClO2
